US08278482B2
Benzyl 4-(butyl(methyl)amino)-2-methylbutan-2-ylcarbamate
Crude N1-butyl-N1,3-dimethylbutane-1,3-diamine (5.00 g, 29.0 mmol) was dissolved into THF (100 mL). To this solution was added CbzOSu (7.23 g, 1 equiv, 29.0 mmol) in one portion. The reaction was left to stir at room temperature for 3 d. The solvent was removed and the residue was taken up in a mixture of diethyl ether (150 mL) and water (50 mL). The layers were separated and the organic layer washed with 1 M sodium carbonate (2×50 mL), 1M HCl (50 mL), and brine (100 mL). The organic layer was dried over anhydrous MgSO4, filtered and concentrated to a pale yellow oil. The crude oil was purified on an ISCO purification system with gradient elution from 10-80% ethyl acetate in hexanes. The desired fractions were collected and concentrated to give a white solid (3.55 g, yield: 40.0%). 1H NMR (CDCl3, 400 MHz): δ 0.83-0.87 (t, J=7.2, 3H), 1.25-1.35 (m, 2H), 1.40 (s, 6H), 1.41-1.45 (m, 2H), 1.59-1.62 (t, J=6.4, 2H), 2.18 (s, 3H), 2.28-2.32 (t, J=6.4, 2H), 2.43-2.47 (t, J=6.4, 2H), 5.04 (s, 2H), 7.27-7.37 (m, 5H). LRMS (ESI+) for C18H30N2O2 (306.2); Found: 307 (MH+).

reactant | N1-butyl-N1,3-dimethylbutane-1,3-diamine | 29.0 mmol, 5.00 g | C(CCC)N(CCC(C)(N)C)C | C10H24N2
reactant | CbzOSu | 29.0 mmol, 7.23 g, 1 equiv | C(=O)(OCC1=CC=CC=C1)ON1C(=O)CCC1=O | C12H11NO5
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Benzyl 4-(butyl(methyl)amino)-2-methylbutan-2-ylcarbamate | 3.55 g, yield: 40.0% | C(CCC)N(CCC(C)(C)NC(OCC1=CC=CC=C1)=O)C | C18H30N2O2
